US06235771B1
In DMF (160 ml) was dissolved 5-bromosalicylaldehyde (20 g). To the mixture was added at room temperature potassium carbonate (17.9 g) and then was added 1-bromopropane (10.8 ml), and the mixture was stirred at 90° C. for 3 hours and cooled to room temperature. The reaction mixture was added to water, and the mixture was extracted with ethyl acetate, washed with saturated brine and dried with magnesium sulfate. Under reduced pressure, the solvent was evaporated, and the residue was purified with silica gel column chromatography (hexane/ethyl acetate=6/1) to give 5-bromo-2-propoxybenzaldehyde (21.9 g).

reactant | 5-bromosalicylaldehyde | 20 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | potassium carbonate | 17.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1-bromopropane | 10.8 ml | BrCCC | C3H7Br
reactant | water | O | H2O
solvent | DMF | 160 ml | CN(C)C=O | C3H7NO
product | 5-bromo-2-propoxybenzaldehyde | 21.9 g | BrC=1C=CC(=C(C=O)C1)OCCC | C10H11BrO2
